data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_352464_0,[C@@:1]([C@:2]([C:3]([H:16])([H:17])[H:18])([N:6]([H:14])[H:15])[H:9])([N:5]([H:12])[H:13])([O:7][N:4]([H:10])[H:11])[H:8]>>[C@@:1]([C@:2]([N:6]([H:14])[H:15])([O:7][N:4]([H:10])[H:11])[H:9])([C:3]([H:16])([H:17])[H:18])([N:5]([H:12])[H:13])[H:8],72.9098525000093
MR_693368_2,[C:1]1([O:7][H:10])([H:12])[C:4]([N:3]([O:6][H:9])[H:11])([O:5][C:2]([H:14])([H:15])[H:16])[N:8]1[H:13]>>[C:1](/[C:4]([N:3]([O:6][H:9])[H:11])=[N:8]/[H:13])([O:5][C:2]([H:14])([H:15])[H:16])([O:7][H:10])[H:12],33.31522999999521
MR_35198_0,[C:1]([C:3]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:6])([O:5][H:8])[H:10])([O:7][H:9])([H:11])[H:12]>>[C:1](/[C:3](=[C:4](/[C:2]([H:13])([H:14])[H:15])[O:6][H:9])[O:5][H:8])([O:7][H:10])([H:11])[H:12],61.836360000002486
MR_341698_0,[C:1]([C:3](/[C:4]([C:2]([H:17])([H:18])[H:19])=[C:7](\[N:5]([H:10])[H:11])[H:13])=[C:6](/[O:8][H:9])[H:12])([H:14])([H:15])[H:16]>>[C:1]([C:3]1=[C:4]([C:2]([H:17])([H:18])[H:19])[C@:7]([N:5]([H:10])[H:11])([H:13])[C@@:6]1([O:8][H:9])[H:12])([H:14])([H:15])[H:16],57.23741250002121
MR_110241_2,[C:1]([C:2]([H:12])([H:15])[H:16])([C:3]([H:13])([H:14])[H:17])([C:5]([N:4]([N:6]([H:10])[H:11])[H:8])=[O:7])[H:9]>>[C:1]([C:2]([H:12])([H:15])[H:16])([C:3]([H:13])([H:14])[H:17])(/[C:5](=[N:4]/[N:6]([H:8])[H:11])[O:7][H:10])[H:9],56.17254500003455
MR_248647_0,[C:1]1([N:2]([H:6])[H:7])([H:5])[O:3][O:4]1>>[C:1]([O:3][N:2]([H:6])[H:7])(=[O:4])[H:5],31.321035000000705
MR_411974_0,[C:1]([N:2]([C:3](=[O:6])[H:8])/[N:4]=[N:5]\[H:7])([H:9])([H:10])[H:11]>>[C:1]([N:2][N:4][N:5]([C:3](=[O:6])[H:8])[H:7])([H:9])([H:10])[H:11],33.3240150000087
MR_58656_1,[C:1]1([C:3]([O:7][H:9])([H:11])[H:12])([O:6][H:8])[C:2]([C:5]([H:15])([H:16])[H:17])([H:10])[C:4]1([H:13])[H:14]>>[C:1](=[C:3]([H:11])[H:12])([C:4]([C:2]([C:5]([H:15])([H:16])[H:17])([O:7][H:9])[H:10])([H:13])[H:14])[O:6][H:8],72.61116250001436
MR_255053_2,[C:1](/[C:6](=[C:3](\[N:2]([N:4]([H:9])[H:10])[O:7][H:8])[N:5]([H:11])[H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C@:6]1([H:13])[N:2]([N:4]([H:9])[H:10])[C@:3]1([N:5]([H:11])[H:12])[O:7][H:8])([H:14])([H:15])[H:16],27.723577499987755
MR_83987_1,[C:1]1([H:10])([H:11])[C:6]([N:4]([C:2]([H:12])([H:13])[H:14])[H:8])([N:5]([C:3]([H:15])([H:16])[H:17])[H:9])[O:7]1>>[C:1]([N:5]([C:3]([H:15])([H:16])[H:17])[H:9])([C:6]([N:4]([C:2]([H:12])([H:13])[H:14])[H:8])=[O:7])([H:10])[H:11],51.7706325000195
MR_292758_1,[C:1]([C:3]([O:8][H:12])([H:16])[H:17])([C:4]([C:2](/[C:5](=[N:9]/[H:15])[H:20])([O:7][H:11])[H:14])([H:18])[H:19])([O:6][H:10])[H:13]>>[C:1]([C:4]([C:2]([C:5]([C:3]([O:8][H:12])([H:16])[H:17])([N:9]([H:10])[H:15])[H:20])([O:7][H:11])[H:14])([H:18])[H:19])(=[O:6])[H:13],65.45828999998932
MR_303431_0,[C:1]([N:2]([H:7])[H:8])(=[C:4]([H:11])[H:12])[O:5]/[C:3](=[N:6]/[H:9])[H:10]>>[C:1](/[C:3](=[N:6]/[H:9])[H:10])(=[C:4]([H:11])[H:12])[O:5][N:2]([H:7])[H:8],49.82349999997752
MR_37305_0,[C:1]([O:5][C:3]1([H:8])/[C:2](=[N:6]/[H:7])[C:4]1([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:1]([O:5]/[C:2]([C:3](=[C:4]([H:12])[H:13])[H:8])=[N:6]/[H:7])([H:9])([H:10])[H:11],51.71290249998691
MR_608638_0,[N:1](/[C:2](=[C:3](\[O:6][H:9])[H:11])[O:5][H:8])([O:4][H:7])[H:10]>>[N:1]1([H:10])[C:2]([C:3]([O:6][H:9])([H:7])[H:11])([O:5][H:8])[O:4]1,56.584184999994
MR_129789_1,[C:1]1([H:8])([H:9])[C:2]2([H:11])[C:5]([H:10])([H:12])[N:7]=[C:4]([C:3]([H:13])([H:14])[H:15])[N:6]12>>[C:1]1([H:8])([H:9])[C:2]([H:11])([H:12])[C:5]([H:10])=[N:7][C:4]([C:3]([H:13])([H:14])[H:15])=[N:6]1,43.178902499988965
MR_384555_0,[C:1]([C:2]([C:4]([H:17])([H:18])[H:19])([C:5]([H:20])([H:21])[H:22])[H:13])([C:3]([C:6]([C:7](=[C:8]([H:23])[H:24])[H:16])=[O:10])([H:14])[H:15])([O:9][H:11])[H:12]>>[C:1]([C:3]([C:6]([C:2]([C:4]([H:17])([H:18])[H:19])([C:5]([H:20])([H:21])[H:22])[H:13])([C:7](=[C:8]([H:23])[H:24])[H:16])[O:10][H:11])([H:14])[H:15])(=[O:9])[H:12],67.64638249999365
MR_695867_1,[C@@:1]([N:4]([C:2]([H:15])([H:16])[H:17])[N:6]([H:10])[H:11])(/[C:5]([C:3]([H:18])([H:19])[H:20])=[N:8]\[H:14])([N:7]([H:12])[H:13])[H:9]>>[C@:1]1([N:7]([H:12])[H:13])([H:9])[C@@:5]([C:3]([H:18])([H:19])[H:20])([N:4]([C:2]([H:15])([H:16])[H:17])[N:6]([H:10])[H:11])[N:8]1[H:14],67.34581000000347
MR_631910_2,[C:1]1([N:5]([H:11])[H:12])([H:10])[C:4]([N:3]([C:2]([H:14])([H:15])[H:16])[H:9])([O:6][H:8])[N:7]1[H:13]>>[C:1](/[C:4]([N:3]([C:2]([H:14])([H:15])[H:16])[H:9])=[N:7]\[H:13])([N:5]([H:11])[H:12])([O:6][H:8])[H:10],34.74781249998088
MR_370243_2,[C:1]1([C:5]([N:6]([H:12])[H:13])=[O:8])([H:9])[C:2]([N:7]([H:14])[H:15])([H:10])[C:3]1([C:4]([H:16])([H:17])[H:18])[H:11]>>[C:1]1(/[C:2](=[N:7]/[H:14])[H:10])([H:9])[C:3]([C:4]([H:16])([H:17])[H:18])([H:11])[C:5]1([N:6]([H:12])[H:13])[O:8][H:15],56.170035000005214
MR_512009_1,[C:1](=[C:5]([C:6](/[C:3]([C:2]([H:16])([H:17])[H:18])=[N:7]/[H:9])(/[C:4](=[N:8]\[H:10])[H:13])[H:15])[H:14])([H:11])[H:12]>>[C:1](/[C:3]([C:2]([H:16])([H:17])[H:18])=[N:7]/[H:9])(/[C:5](=[C:6]([C:4](=[N:8]\[H:10])/[H:13])\[H:15])[H:14])([H:11])[H:12],67.96954499999813
